US08217066B2
Step 2: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]acetonitrile
To 4-bromomethyl-5-(4-bromo-phenyl)-3-methyl-isoxazole (10.74 mmol) in DMF (30 mL) was added potassium cyanide (0.729 g, 10.74 mmol) and the reaction stirred at 65° C. overnight. After aqueous workup, the crude material was purified by silica gel chromatography (0-70% EtOAc in hexanes) to give the title compound.

reactant | 4-bromomethyl-5-(4-bromo-phenyl)-3-methyl-isoxazole | 10.74 mmol | BrCC=1C(=NOC1C1=CC=C(C=C1)Br)C | C11H9Br2NO
reactant | potassium cyanide | 10.74 mmol, 0.729 g | [C-]#N.[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]acetonitrile | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CC#N | C12H9BrN2O
